US08071581B2
Step 2: 5-(3-Bromo-quinolin-6-ylmethyl)-[1,2,4]triazole-3,4-diamine
A mixture of 5-(3-bromo-quinolin-6-ylmethyl)-[1,3,4]oxadiazol-2-ylamine (3.53 g, 11.6 mmol), hydrazine hydrate (30 mL) and water (15 mL) was heated in a microwave vial at 170° C. and 2 bar of pressure for 1 hour. After cooling the formed solid was collected via filtration and washed with cold methanol and dried to return the title compound as white solid (1.79 g, 5.6 mmol, 49%). 1H NMR (DMSO-d6): δ 4.13 (2H, s), 5.46 (s, 2H), 5.56 (s, 2H), 7.23 (d, 1H), 7.81 (s, 1H), 7.98 (d, 1H), 8.71 (d, 1H); 8.91 (d, 1H); MS (m/z) 319 [M+H+]+.

reactant | 5-(3-bromo-quinolin-6-ylmethyl)-[1,3,4]oxadiazol-2-ylamine | 11.6 mmol, 3.53 g | BrC=1C=NC2=CC=C(C=C2C1)CC1=NN=C(O1)N | C12H9BrN4O
reactant | hydrazine hydrate | 30 mL | O.NN
solvent | water | 15 mL | O | H2O
product | 5-(3-Bromo-quinolin-6-ylmethyl)-[1,2,4]triazole-3,4-diamine | 5.6 mmol, 1.79 g, 49% | BrC=1C=NC2=CC=C(C=C2C1)CC=1N(C(=NN1)N)N | C12H11BrN6
